US09079866B2
6-Amino-3-(2′-(cyclopropylsulfonyl)-3-fluoro-[1,1′-biphenyl]-4-yl)picolinonitrile
The title compound was prepared using analogous conditions to those described in Example 6 2-(2′-(cyclopropylsulfonyl)-3-fluoro-[1,1′-biphenyl]-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane and 6-amino-3-bromo-2-cyanopyridine. MS (ESI): mass calcd. for C21H16FN3O2S, 393.09; m/z found, 393.9 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.07 (d, J=7.9, 1H), 7.71-7.64 (m, 1H), 7.64-7.58 (m, 2H), 7.54-7.48 (m, 1H), 7.40 (dd, J=19.2, 9.2, 2H), 7.33 (dd, J=7.9, 1.6, 1H), 6.86 (d, J=8.7, 1H), 6.79 (d, J=10.0, 3H), 1.03 (s, 9H).

reactant | 2-(2′-(cyclopropylsulfonyl)-3-fluoro-[1,1′-biphenyl]-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C1(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C21H24BFO4S
reactant | 6-amino-3-bromo-2-cyanopyridine | NC1=CC=C(C(=N1)C#N)Br | C6H4BrN3
product | 6-Amino-3-(2′-(cyclopropylsulfonyl)-3-fluoro-[1,1′-biphenyl]-4-yl)picolinonitrile | NC1=CC=C(C(=N1)C#N)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C1CC1)F | C21H16FN3O2S
